US05977105
b) 3-(4-Hydroxyphenyl)pyridine
Prepared according to the method as described in Example 33b) from 3-(4-methoxyphenyl)pyridine (2.5 g), 48% aqueous hydrobromic acid (25 ml) and acetic acid (25 ml) to give the sub-title compound as a pale orange solid (1.68 g).

reactant | 3-(4-methoxyphenyl)pyridine | 2.5 g | COC1=CC=C(C=C1)C=1C=NC=CC1 | C12H11NO
reactant | hydrobromic acid | 25 ml | Br | BrH
solvent | acetic acid | 25 ml | C(C)(=O)O | C2H4O2
product | 3-(4-Hydroxyphenyl)pyridine | 1.68 g | OC1=CC=C(C=C1)C=1C=NC=CC1 | C11H9NO
